US08202858B2
N-Cyclohexyl-N′-methyl-benzene-1,2-diamine
Potassium carbonate (2.45 g, 17.7 mmol) and iodomethane (0.81 ml, 13.0 mmol) were added to a solution of N-cyclohexyl-benzene-1,2-diamine from Example E26.2 (2.25 g, 11.8 mmol) in DMF (10 ml). The mixture was stirred for 6 h at room temperature then poured into water and extracted with EtOAc. The organic layer was washed with water then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% EtOAc:95% hexane) to yield the title compound (950 mg, 39%).

reactant | Potassium carbonate | 17.7 mmol, 2.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 13.0 mmol, 0.81 ml | IC | CH3I
reactant | N-cyclohexyl-benzene-1,2-diamine | C1(CCCCC1)NC=1C(=CC=CC1)N | C12H18N2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-Cyclohexyl-N′-methyl-benzene-1,2-diamine | 950 mg, 39% | C1(CCCCC1)NC=1C(=CC=CC1)NC | C13H20N2
